US04395414
3-(7-Chloro-1,2-dihydro-2-oxo-3-phenylquinol-1-yl)-propionic acid methyl ester
1 ml of benzyltrimethylammonium hydroxide is added to a suspension of 8 g of 7-chloro-1,2-dihydro-2-oxo-3-phenylquinoline in 21.3 ml of methyl acrylate at 40° to 50° C., under nitrogen, the mixture is stirred at this temperature for 31/2 hours and the excess methyl acrylate is then distilled off in vacuo. The solid residue is dissolved in 100 ml of methylene chloride and the solution is washed with 2 N acetic acid, sodium bicarbonate solution and water. After drying the organic phase over sodium sulphate and distilling off the solvent, the residue is recrystallised from cyclohexane. 8.0 g of the title compound of m. 122°-124° C. are obtained.

reactant | benzyltrimethylammonium hydroxide | 1 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 7-chloro-1,2-dihydro-2-oxo-3-phenylquinoline | 8 g | ClC1=CC=C2C=C(C(NC2=C1)=O)C1=CC=CC=C1 | C15H10ClNO
reactant | methyl acrylate | 21.3 ml | C(C=C)(=O)OC | C4H6O2
product | 3-(7-Chloro-1,2-dihydro-2-oxo-3-phenylquinol-1-yl)-propionic acid methyl ester | COC(CCN1C(C(=CC2=CC=C(C=C12)Cl)C1=CC=CC=C1)=O)=O | C19H16ClNO3
